US07217730B2
(5-Cyano-8-fluoro-3-methyl-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic Acid
To a solution of (5-cyano-8-fluoro-3-methyl-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic Acid Ethyl Ester (156 mg, 0.435 mmol) in THF/MeOH (1.5 mL/1.5 mL) was added 1 N NaOH (0.871 mL, 0.871 mmol). The reaction mixture was stirred at ambient temperature overnight. The most of THF/MeOH was removed under reduced pressure and the resulting mixture was acidified with 1 N HCl. The mixture was extracted with EtOAc (3×10 mL). The combined organic phase was washed with brine (20 mL), dried over Na2SO4 and concentrated. The residue was purified by preparative HPLC to give 125 mg (87%) of title compound as a white solid. LCMS retention time: 2.775 minutes, [M+H]+ calculated for C18H20FN2O3 331.36, found 331.10, [M−1]+ calculated for C18H18FN2O 329.36, found 329.10.

reactant | (5-cyano-8-fluoro-3-methyl-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic Acid Ethyl Ester | 0.435 mmol, 156 mg | C(C)OC(CC1(OC(CC2=C1NC1=C(C=CC(=C21)C#N)F)C)CCC)=O | C20H23FN2O3
reactant | NaOH | 0.871 mmol, 1 N, 0.871 mL | [OH-].[Na+]
solvent | THF MeOH | 1.5 mL | C1CCOC1.CO
product | (5-Cyano-8-fluoro-3-methyl-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic Acid | 125 mg, 87% | C(#N)C1=C2C3=C(NC2=C(C=C1)F)C(OC(C3)C)(CCC)CC(=O)O | C18H19FN2O3
